US09193726B2
Step 1. Synthesis of (2S)-1-[(2-hydroxyethyl)amino]-5-(trimethylsilyl)pent-4-yn-2-ol (C79)
A mixture of (2S)-1-chloro-5-(trimethylsilyl)pent-4-yn-2-ol (80 g, 420 mmol) and 2-aminoethanol (110 g, 1.8 mol) was stirred at 80° C. for 18 hours. Silica gel chromatography (Gradient: 1% to 10% methanol in dichloromethane) provided the product as a yellow oil. Yield: 30 g, 140 mmol, 33%. 1H NMR (400 MHz, CD3OD) δ 3.80-3.88 (m, 1H), 3.61-3.72 (m, 2H), 2.84 (dd, J=12.3, 3.3 Hz, 1H), 2.69-2.81 (m, 2H), 2.64 (dd, J=12.0, 8.5 Hz, 1H), 2.45 (dd, half of ABX pattern, J=16.6, 5.5 Hz, 1H), 2.37 (dd, half of ABX pattern, J=16.6, 7.0 Hz, 1H), 0.12 (s, 9H).

reactant | (2S)-1-chloro-5-(trimethylsilyl)pent-4-yn-2-ol | 420 mmol, 80 g | ClC[C@H](CC#C[Si](C)(C)C)O | C8H15ClOSi
reactant | 2-aminoethanol | 1.8 mol, 110 g | NCCO | C2H7NO
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2S)-1-[(2-hydroxyethyl)amino]-5-(trimethylsilyl)pent-4-yn-2-ol | OCCNC[C@H](CC#C[Si](C)(C)C)O | C10H21NO2Si
